* Generated by Xic from cell MITLL_SPLITT
* Author: L. Schindler
* Version: 1.1
* Last modification date: 26 October 2018
* Last modification by: L. Schindler

.tran 0.5p 600p 0 0.25p UIC
.include MITLL_SPLITT_models.inc
.param Scaling=1.0
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2 
.param Lsheet=1.13e-12 
.param B01rx1=1.0070*Scaling
.param B01tx1=1.6993*Scaling
.param B1=1.6960*Scaling
.param B2=1.2095*Scaling
.param IB01rx1=0.000134948*Scaling
.param IB01tx1=7.6267e-05*Scaling
.param IB1=0.000359683*Scaling
.param L01rx1=2.6757e-13*(1/Scaling-(1-Scaling))
.param L02tx1=2.2253e-12*(1/Scaling-(1-Scaling))
.param L1=1.5259e-12*(1/Scaling-(1-Scaling))
.param L2=2.9154e-12*(1/Scaling-(1-Scaling))
.param L3=4.8137e-13*(1/Scaling-(1-Scaling))
.param L4=1.2716e-12*(1/Scaling-(1-Scaling))
.param L5=1.2572-12*(1/Scaling-(1-Scaling))
.param LRB01rx1=(RB01rx1/Rsheet)*Lsheet
.param LRB01tx1=(RB01tx1/Rsheet)*Lsheet
.param LRB1=(RB1/Rsheet)*Lsheet
.param LRB2=(RB2/Rsheet)*Lsheet
.param RB01rx1=B0Rs/B01rx1
.param RB01tx1=B0Rs/B01tx1
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
B01rx1 6 20 32 jmitll area=B01rx1
B01tx1 5 16 31 jmitll area=B01tx1
B01tx2 9 28 35 jmitll area=B01tx1
B1 7 22 33 jmitll area=B1
B2 4 14 30 jmitll area=B2
B3 8 25 34 jmitll area=B2
IB01rx1 0 12 pwl(0 0 5p IB01rx1)
IB01tx1 0 10 pwl(0 0 5p IB01tx1)
IB01tx2 0 27 pwl(0 0 5p IB01tx1)
IB1 0 13 pwl(0 0 5p IB1)
L01rx1 IN 6 L01rx1
L02tx1 5 11 L02tx1
L02tx2 9 24 L02tx1
L1 6 7 L1
L2 7 18 L2
L3 18 19 L3
L4 4 19 L4
L5 4 5 L5
L6 19 8 L4
L7 8 9 L5
LP01rx1 20 0 0.34p
LP01tx1 16 0 0.05p
LP01tx2 28 0 0.05p
LP1 22 0 0.2p
LP2 14 0 0.2p
LP3 25 0 0.2p
LPR01rx1 12 6 0.2p
LPR01tx1 10 5 0.2p
LPR01tx2 9 27 0.2p
LPRIB1 13 18 0.2p
LRB01rx1 21 0 LRB01rx1
LRB01tx1 17 0 LRB01tx1
LRB01tx2 29 0 LRB01tx1
LRB1 23 0 LRB1
LRB2 15 0 LRB2
LRB3 26 0 LRB2
RB01rx1 6 21 RB01rx1
RB01tx1 5 17 RB01tx1
RB01tx2 9 29 RB01tx1
RB1 7 23 RB1
RB2 4 15 RB2
RB3 8 26 RB2
RINStx1 11 OUT_1 1.36
RINStx2 24 OUT_2 1.36